US05190782
Following the procedure for preparation of a final product in Example 1, a 10% excess of myristoyl chloride is stirred for 30 minutes at room temperature with dioleyl aspartate. Dioleyl N-myristoyl-L-aspartate, another fat mimetic of this invention, is obtained and further purified by silica gel chromatography.

reactant | myristoyl chloride | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
reactant | dioleyl aspartate | N[C@@H](CC(=O)OCCCCCCCC\C=C/CCCCCCCC)C(=O)OCCCCCCCC\C=C/CCCCCCCC | C40H75NO4
product | Dioleyl N-myristoyl-L-aspartate | C(CCCCCCCCCCCCC)(=O)N[C@@H](CC(=O)OCCCCCCCC\C=C/CCCCCCCC)C(=O)OCCCCCCCC\C=C/CCCCCCCC | C54H101NO5
